US04083983
4-Amino-2-hydroxymethyl-3-methoxypyridine is diazotised in dilute sulphuric acid with sodium nitrite and the diazonium compound is warmed to give 4-hydroxy-2-hydroxymethyl-3-methoxypyridine which may be demethylated with hydrobromic acid.

reactant | 4-Amino-2-hydroxymethyl-3-methoxypyridine | NC1=C(C(=NC=C1)CO)OC | C7H10N2O2
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 4-hydroxy-2-hydroxymethyl-3-methoxypyridine | OC1=C(C(=NC=C1)CO)OC | C7H9NO3
